US04318913
3-[3-[1-Piperidinylmethyl]phenoxy]propanamine
2-[3-[3-Formylphenoxy]propyl]-1H-isoindole-1,3-dione (50 g) and piperidine (20.7 g) in ethyl acetate (750 ml) were hydrogenated over 10% palladium/carbon catalyst. The catalyst was removed by filtration and the solvent evaporated and hydrazine hydrate (40 ml) was added to an ethanolic solution of the residue at 25°. After 67 hr the reaction mixture was diluted with ether, filtered and the filtrate was distilled to give the title compound as a colourless oil (31.05 g) b.p. 154°-8°/0.15 mm. TLC silica, methanol/0.88 ammonia 80:1, Rf 0.2.

reactant | 2-[3-[3-Formylphenoxy]propyl]-1H-isoindole-1,3-dione | 50 g | C(=O)C=1C=C(OCCCN2C(C3=CC=CC=C3C2=O)=O)C=CC1 | C18H15NO4
reactant | piperidine | 20.7 g | N1CCCCC1 | C5H11N
solvent | ethyl acetate | 750 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium/carbon | [Pd] | Pd
product | 3-[3-[1-Piperidinylmethyl]phenoxy]propanamine | 31.05 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
